US06936612B2
8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (0.180 g, 0.379 mmol) was dissolved in ethyl acetate (10 mL) and 6 N HCl (10 mL) was added then the mixture was stirred at room temperature for 2 hours. The mixture was diluted with dichloromethane and aqueous NaHCO3. The layers were separated and the organic layer was dried over MgSO4, filtered, and the solvent evaporated to give 6-acetyl-8-cyclopentyl-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one as a yellow solid (0.120 g, 71.0%). 1H NMR δ (400 MHz, CDCl3) 8.78 (s, 1H), 8.20 (d, J=8.5 Hz, 1H), 7.95 (s, 1H), 7.39 (m, 1H), 5.85 (m, 1H), 3.15 (m, 4H), 2.53 (s, 3H), 2.36 (s, 3H), 2.33 (m, 2H), 2.05 (m, 2H), 1.87 (m, 2H), 1.77-1.56 (m, 8H). MS (APCI); M++1: Calc'd, 447.2. Found 447.2. Anal. Calc'd for C25H30N6O2 0.35 H2O: C, 66.31; H, 6.83; N, 18.56. Found: C, 66.68; H, 6.76; N, 18.07.

reactant | 8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.379 mmol, 0.180 g | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CCCCC2)C)C(=C)OCC)=O | C27H34N6O2
reactant | HCl | 6 N, 10 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-acetyl-8-cyclopentyl-5-methyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.120 g, 71.0% | C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=CC=C(C=N2)N2CCCCC2)N(C1=O)C1CCCC1)C | C25H30N6O2
